US04119643
3,4-Epoxy-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran (0.50g.), prepared as described in British Pat. No. 1,495,526, chloropropylamine hydrochloride (0.65g.), and sodium hydroxide pellets (0.20g.) in dioxan (25 ml) and water (3 ml) were stirred at room temperature for 6 days. Dilution with water and isolation via ethyl acetate gave a gum (0.62g.) which was separated, by application to silica gel plates and development with ethyl acetate- 60-80° petroleum ether mixture, into starting epoxide (0.34g.) and an amine fraction (0.25g.). The latter was dissolved in diethyl ether and treated with ethereal hydrogen chloride to give trans-4-(3-chloropropylamino)-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]-pyran-3-ol hydrochloride (0.15g.); m.p. 242°-243°.

reactant | 3,4-Epoxy-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]pyran | 0.50g | O1C2C1C1=C(OC2(C)C)C=CC(=C1)[N+](=O)[O-] | C11H11NO4
reactant | chloropropylamine hydrochloride | 0.65g | Cl.ClCCCN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 3 ml | O | H2O
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | trans-4-(3-chloropropylamino)-3,4-dihydro-2,2-dimethyl-6-nitro-2H-benzo[b]-pyran-3-ol hydrochloride | 0.15g | Cl.ClCCCN[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC(=C2)[N+](=O)[O-] | InChI=1S/C14H19ClN2O4.ClH/c1-14(2)13(18)12(16-7-3-6-15)10-8-9(17(19)20)4-5-11(10)21-14;/h4-5,8,12-13,16,18H,3,6-7H2,1-2H3;1H/t12-,13+;/m1./s1
